US06734301B2
A solution of 1M lithium aluminum hydride (7 mL, 7 mmol) and THF (14 mL) is cooled to 0° C. and portion-wise treated with aluminum trichloride (317 mg, 2.4 mmol) with gas evolution. The resulting colorless solution with a small amount of precipitate is drop-wise treated with a solution of N-(4-methoxyphenyl)-2-oxo-2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)acetamide (433 mg, 1.19 mmol) in THF (10 mL) with additional gas evolution. The resulting yellow suspension is warmed to rt for 20 hr followed by heating to 50° C. for 8 hours. At this time, the reaction is quenched by the successive addition of water (0.27 mL), 5M sodium hydroxide (0.24 mL), and water (0.93 mL). The resulting gelatinous suspension is diluted with dichloromethane, filtered through a pad of celite, with the organics washed once with 1N sodium hydroxide (35 mL), once with brine (35 mL), dried over MgSO4, filtered, and concentrated to give a tan oil. This material is purified by LC (230-400 silica gel) eluting with 5:0.75:94.25 methanol/NH4OH/dichloromethane to afford 330 mg of 4-methoxy-N-[2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)ethyl]aniline as a light golden oil. This material is dissolved in ethyl acetate and treated with 2M hydrochloric acid in methanol (1.1 mL) with immediate formation of a white solid that is collected by filtration and recrystallized from methanol/ethyl acetate to afford 343 mg of 4-methoxy-N-[2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)ethyl]aniline dihydrochloride as a white solid. IR (drift) 2818, 2803, 2746, 2726, 2694, 2669, 2642, 2585, 2552, 2449, 1514, 1471, 1255, 1244, 757 cm−1; OAMS supporting ions at: ESI+ 336.2.

reactant | lithium aluminum hydride | 7 mmol, 1M, 7 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum trichloride | 2.4 mmol, 317 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | N-(4-methoxyphenyl)-2-oxo-2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)acetamide | 1.19 mmol, 433 mg | COC1=CC=C(C=C1)NC(C(C1=C2N(C=3C=CC=CC13)CCNCC2)=O)=O | C21H21N3O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | 4-methoxy-N-[2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)ethyl]aniline | 330 mg | COC1=CC=C(NCCC2=C3N(C=4C=CC=CC24)CCNCC3)C=C1 | C21H25N3O
